US05792775
D. Synthesis of Pseudotropine (9)
Tropinone (3.0 g, 21.6 mmole) was placed in a dry 250 mL round bottom flask, purged with argon. Anhydrous THF (75 mL, w/o stabilizer) was added and the solution was cooled in a dry ice/acetone bath to -78° C. In another dry, argon purged flask LiBH4 (1.41 g, 64.6 mmole) was dissolved in anhydrous THF (50 mL) and cooled to -78° C. The contents of this flask was transferred to the first flask via cannula, under argon. This flask was rinsed once with additional THF (25 mL). The reaction was allowed to proceed for 6 hours at -78° C. and then warmed gradually to room temperature overnight. The reaction mixture was cooled in an ice water bath and carefully quenched with H2O (10 mL) followed by neutralization with 2.8N HCl. The volatiles were removed in vacuo and the residue was taken up in 1N HCl (100 mL) and heated to reflux for 60 min to dissociate the pseudotropine-boron complex formed. The acidic solution was adjusted to pH=10-11 with 15% NaOH and extracted with CHCl3 /2-propanol (3:1, 10×50 mL). The organic fractions were combined, dried over anhydrous Na2SO4, filtered, and concentrated in vacuo resulting in 2.58 g (85% yield) of a white solid product. Recrystallization from toluene/pet ether gave small white needles, mp 106°-109° C. (mp 109° C., The Merck Index, 11th Edition, 1989, #7937, p. 1259).

reactant | Tropinone | 21.6 mmole, 3.0 g | CN1C2CCC1CC(=O)C2 | C8H13NO
reactant | LiBH4 | 64.6 mmole, 1.41 g | [Li+].[BH4-]
reactant | NaOH | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Pseudotropine | 2.58 g, 85% yield | CN1[C@@H]2CC[C@H]1C[C@@H](C2)O | C8H15NO
